US04966989
206.6 g (0.47 mol) of a 35 percent mixture of 4-chloroacetoacetyl chloride in methylene chloride was cooled to -10° C. Under nitrogen, 147.2 g (3.2 mol) of ethanol was added in 30 minutes, and then 83.3 g (0.7 mol) of thionyl chloride was added in 30 minutes (formation of diethyl sulfite). The temperature was raised to 55° to 60° C. in an hour, and then it was stirred for 1 hour more at 55° to 60° C. Then the excess ethanol and methylene chloride was distilled off at reduced pressure. The residue (raw 4-chloro-3,3-diethoxybutanoic acid ester) was mixed with 0.27 g of methanesulfonic acid and warmed at a pressure of 75 mbars to 125° to 130° C. Thus, the formed ethanol and excess diethyl sulfite were distilled off. The residue (raw 4-chloro-3- ethoxy -but-2E-enoic acid ethyl ester) was taken up in 110.2 g (120 ml) of toluene and the organic phase was washed with 69.8 g of aqueous 16 percent HCl for 30 minutes, with 32.1 g of an aqueous 10 percent sodium chloride solution for 10 minutes, with 134 g of aqueous 10 percent NaOH for 75 minutes and finally with 32.1 g of aqueous 10 percent sodium chloride solution for 10 minutes. The toluene was then evaporated off and the residue was distilled at a pressure of 2 mbars and a temperature of 78° to 80° C. 4-chloro-3-ethoxy-but-2E-enoic acid ethyl ester was obtained in a yield of 80.6 g (88.5 percent) in a purity of 99.8 percent (GC).

reactant | 4-chloroacetoacetyl chloride | ClCC(CC(=O)Cl)=O | C4H4Cl2O2
reactant | ethanol | 3.2 mol, 147.2 g | C(C)O | C2H6O
reactant | thionyl chloride | 0.7 mol, 83.3 g | S(=O)(Cl)Cl | Cl2OS
reactant | diethyl sulfite | S(=O)(OCC)OCC | C4H10O3S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-chloro-3-ethoxy-but-2E-enoic acid ethyl ester | C(C)OC(\C=C(/CCl)\OCC)=O | C8H13ClO3
